US07132436B2
2,6-Dichloro-N-[4-(3-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine (59 mg) and 2,6-dichlorobenzenesulfonyl chloride (66 mg) as descrbed in the synthetic METHOD B to give a yellow solid (34.5 mg) with purity >90%: MS (pos) m/z 425.3, 427.3; HRMS m/z 423.8730 (calc. of monoisotopic mass for C13 H7 Cl3 N2 O2 S3 gives 423.8735).

reactant | 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine | 59 mg | ClC1=C(SC=C1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 2,6-dichlorobenzenesulfonyl chloride | 66 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,6-Dichloro-N-[4-(3-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC=1SC=C(N1)C=1SC=CC1Cl | C13H7Cl3N2O2S3
